US08222416B2
A mixture of 1-benzenesulfonyl-5-bromo-1H-pyrrolo[2,3-b]pyridine (3.0 g, 8.9 mmol), tributyl-vinyl-stannane (3.9 mL, 13.55 mmol) and tetrakis(triphenylphosphine)palladium(0) (514 mg, 0.445 mmol) in N,N-dimethylformamide (10 mL) was stirred at 85° C. for 15 h. The mixture was cooled to 25° C., extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, hexanes to 15% ethyl acetate/hexanes) to afford 1-benzenesulfonyl-5-vinyl-1H-pyrrolo[2,3-b]pyridine (2.2 g, 87%) as a white solid: LC/MS m/e calcd for C15H13N2SO2 [M+H]+ 285.34, observed 285.2; 1H NMR (400 MHz, CDCl3) δ ppm 5.32 (d, J=11.0 Hz, 1H), 5.78 (d, J=17.6 Hz, 1H), 6.59 (d, J=4.0 Hz, 1H), 6.77 (dd, J=11.0 Hz, J=17.6 Hz, 1H), 7.49 (m, 2H), 7.58 (m, 1H), 7.74 (d, J=4.0 Hz, 1H), 7.88 (d, J=2.0 Hz, 1H), 8.19 (m, 2H), 8.46 (d, J=2.0 Hz, 1H).

reactant | 1-benzenesulfonyl-5-bromo-1H-pyrrolo[2,3-b]pyridine | 8.9 mmol, 3.0 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)Br | C13H9BrN2O2S
reactant | tributyl-vinyl-stannane | 13.55 mmol, 3.9 mL | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.445 mmol, 514 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-benzenesulfonyl-5-vinyl-1H-pyrrolo[2,3-b]pyridine | 2.2 g, 87% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C=C | C15H12N2O2S
